**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     SMDHighCurrentCube Inductor
* Matchcode:          WE-HCC
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 1090_7443330022_0.22u 1 2
Rp 1 2 332.13
Cp 1 2 1.3588p
Rs 1 N3 0.0014
L1 N3 2 0.19964u
.ends 1090_7443330022_0.22u
*******
.subckt 1090_7443330033_0.33u 1 2
Rp 1 2 324.68
Cp 1 2 1.3p
Rs 1 N3 0.0014
L1 N3 2 0.3183u
.ends 1090_7443330033_0.33u
*******
.subckt 1090_7443330047_0.47u 1 2
Rp 1 2 532.74
Cp 1 2 2.126p
Rs 1 N3 0.0016
L1 N3 2 0.5108u
.ends 1090_7443330047_0.47u
*******
.subckt 1090_7443330068_0.68u 1 2
Rp 1 2 834.55
Cp 1 2 2.167p
Rs 1 N3 0.00215
L1 N3 2 0.72908u
.ends 1090_7443330068_0.68u
*******
.subckt 1090_7443330082_0.82u 1 2
Rp 1 2 824.42
Cp 1 2 2.147p
Rs 1 N3 0.00215
L1 N3 2 0.79469u
.ends 1090_7443330082_0.82u
*******
.subckt 1090_7443330100_1u 1 2
Rp 1 2 803.92
Cp 1 2 2.061p
Rs 1 N3 0.00215
L1 N3 2 1.123u
.ends 1090_7443330100_1u
*******
.subckt 1090_7443330150_1.5u 1 2
Rp 1 2 1327
Cp 1 2 2.64p
Rs 1 N3 0.00335
L1 N3 2 1.533u
.ends 1090_7443330150_1.5u
*******
.subckt 1090_7443330220_2.2u 1 2
Rp 1 2 1784
Cp 1 2 1.727p
Rs 1 N3 0.0046
L1 N3 2 1.945u
.ends 1090_7443330220_2.2u
*******
.subckt 1090_7443330330_3.3u 1 2
Rp 1 2 2701
Cp 1 2 2.959p
Rs 1 N3 0.0065
L1 N3 2 3.243u
.ends 1090_7443330330_3.3u
*******
.subckt 1090_7443330470_4.7u 1 2
Rp 1 2 3350
Cp 1 2 2.442p
Rs 1 N3 0.0094
L1 N3 2 4.216u
.ends 1090_7443330470_4.7u
*******
.subckt 1090_7443330680_6.8u 1 2
Rp 1 2 4635
Cp 1 2 2.114p
Rs 1 N3 0.01415
L1 N3 2 6.255u
.ends 1090_7443330680_6.8u
*******
.subckt 1090_7443330820_8.2u 1 2
Rp 1 2 4441.2
Cp 1 2 2.933p
Rs 1 N3 0.01415
L1 N3 2 8.195u
.ends 1090_7443330820_8.2u
*******
.subckt 1090_7443331000_10u 1 2
Rp 1 2 5570
Cp 1 2 2.139p
Rs 1 N3 0.02275
L1 N3 2 9.378u
.ends 1090_7443331000_10u
*******
.subckt 1210_7443310022_0.22u 1 2
Rp 1 2 158.8
Cp 1 2 5.26p
Rs 1 N3 0.0011
L1 N3 2 0.1349u
.ends 1210_7443310022_0.22u
*******
.subckt 1210_7443310033_0.33u 1 2
Rp 1 2 136.36
Cp 1 2 3.62p
Rs 1 N3 0.0011
L1 N3 2 0.26309u
.ends 1210_7443310033_0.33u
*******
.subckt 1210_7443310047_0.47u 1 2
Rp 1 2 166.88
Cp 1 2 7.022p
Rs 1 N3 0.00135
L1 N3 2 0.33232u
.ends 1210_7443310047_0.47u
*******
.subckt 1210_7443310068_0.68u 1 2
Rp 1 2 135.24
Cp 1 2 6.11p
Rs 1 N3 0.00135
L1 N3 2 0.31388u
.ends 1210_7443310068_0.68u
*******
.subckt 1210_7443310082_0.82u 1 2
Rp 1 2 253.76
Cp 1 2 3.887p
Rs 1 N3 0.00195
L1 N3 2 0.73906u
.ends 1210_7443310082_0.82u
*******
.subckt 1210_7443310100_1u 1 2
Rp 1 2 146.9
Cp 1 2 2.56p
Rs 1 N3 0.00195
L1 N3 2 0.7096u
.ends 1210_7443310100_1u
*******
.subckt 1210_7443310150_1.5u 1 2
Rp 1 2 176.09
Cp 1 2 2.56p
Rs 1 N3 0.0028
L1 N3 2 1.25u
.ends 1210_7443310150_1.5u
*******
.subckt 1210_7443310220_2.2u 1 2
Rp 1 2 365.45
Cp 1 2 3.8964p
Rs 1 N3 0.00375
L1 N3 2 1.79u
.ends 1210_7443310220_2.2u
*******
.subckt 1210_7443310330_3.3u 1 2
Rp 1 2 344.22
Cp 1 2 18.35p
Rs 1 N3 0.00695
L1 N3 2 2.51u
.ends 1210_7443310330_3.3u
*******
.subckt 1210_7443310390_3.9u 1 2
Rp 1 2 799.7
Cp 1 2 3.88p
Rs 1 N3 0.01
L1 N3 2 3.54u
.ends 1210_7443310390_3.9u
*******
.subckt 1210_7443310470_4.7u 1 2
Rp 1 2 639.9
Cp 1 2 4.14p
Rs 1 N3 0.01
L1 N3 2 3.754u
.ends 1210_7443310470_4.7u
*******
.subckt 1210_7443320022_0.22u 1 2
Rp 1 2 292.2
Cp 1 2 1.739p
Rs 1 N3 0.0011
L1 N3 2 0.20697u
.ends 1210_7443320022_0.22u
*******
.subckt 1210_7443320033_0.33u 1 2
Rp 1 2 305.62
Cp 1 2 1.721p
Rs 1 N3 0.0011
L1 N3 2 0.34449u
.ends 1210_7443320033_0.33u
*******
.subckt 1210_7443320047_0.47u 1 2
Rp 1 2 546.64
Cp 1 2 2.714p
Rs 1 N3 0.00135
L1 N3 2 0.4555u
.ends 1210_7443320047_0.47u
*******
.subckt 1210_7443320068_0.68u 1 2
Rp 1 2 514.54
Cp 1 2 2.798p
Rs 1 N3 0.00135
L1 N3 2 0.7292u
.ends 1210_7443320068_0.68u
*******
.subckt 1210_7443320082_0.82u 1 2
Rp 1 2 783.38
Cp 1 2 2.706p
Rs 1 N3 0.00185
L1 N3 2 0.8973u
.ends 1210_7443320082_0.82u
*******
.subckt 1210_7443320100_1u 1 2
Rp 1 2 782.48
Cp 1 2 2.624p
Rs 1 N3 0.00185
L1 N3 2 1.052u
.ends 1210_7443320100_1u
*******
.subckt 1210_7443320150_1.5u 1 2
Rp 1 2 1232
Cp 1 2 2.198p
Rs 1 N3 0.00295
L1 N3 2 1.445u
.ends 1210_7443320150_1.5u
*******
.subckt 1210_7443320220_2.2u 1 2
Rp 1 2 1858
Cp 1 2 2.211p
Rs 1 N3 0.0039
L1 N3 2 2.505u
.ends 1210_7443320220_2.2u
*******
.subckt 1210_7443320330_3.3u 1 2
Rp 1 2 2269
Cp 1 2 4.583p
Rs 1 N3 0.0052
L1 N3 2 3.337u
.ends 1210_7443320330_3.3u
*******
.subckt 1210_7443320470_4.7u 1 2
Rp 1 2 2952
Cp 1 2 3.499p
Rs 1 N3 0.00725
L1 N3 2 4.605u
.ends 1210_7443320470_4.7u
*******
.subckt 1210_7443320680_6.8u 1 2
Rp 1 2 2684
Cp 1 2 2.836p
Rs 1 N3 0.01015
L1 N3 2 6.546u
.ends 1210_7443320680_6.8u
*******
.subckt 1210_7443320820_8.2u 1 2
Rp 1 2 4179
Cp 1 2 2.656p
Rs 1 N3 0.0106
L1 N3 2 8.3994u
.ends 1210_7443320820_8.2u
*******
.subckt 1210_7443321000_10u 1 2
Rp 1 2 5020
Cp 1 2 4.764p
Rs 1 N3 0.01535
L1 N3 2 9.63u
.ends 1210_7443321000_10u
*******
.subckt 8070_7443340030_0.3u 1 2
Rp 1 2 470.91
Cp 1 2 1.084p
Rs 1 N3 0.0023
L1 N3 2 0.30772u
.ends 8070_7443340030_0.3u
*******
.subckt 8070_7443340047_0.47u 1 2
Rp 1 2 621.28
Cp 1 2 1.149p
Rs 1 N3 0.00265
L1 N3 2 0.38294u
.ends 8070_7443340047_0.47u
*******
.subckt 8070_7443340068_0.68u 1 2
Rp 1 2 699.24
Cp 1 2 1.396p
Rs 1 N3 0.00265
L1 N3 2 0.58836u
.ends 8070_7443340068_0.68u
*******
.subckt 8070_7443340100_1u 1 2
Rp 1 2 1166
Cp 1 2 1.407p
Rs 1 N3 0.0036
L1 N3 2 0.98543u
.ends 8070_7443340100_1u
*******
.subckt 8070_7443340150_1.5u 1 2
Rp 1 2 1584
Cp 1 2 1.389p
Rs 1 N3 0.0053
L1 N3 2 1.295u
.ends 8070_7443340150_1.5u
*******
.subckt 8070_7443340220_2.2u 1 2
Rp 1 2 1468
Cp 1 2 1.471p
Rs 1 N3 0.0053
L1 N3 2 1.97u
.ends 8070_7443340220_2.2u
*******
.subckt 8070_7443340330_3.3u 1 2
Rp 1 2 2132
Cp 1 2 1.438p
Rs 1 N3 0.0075
L1 N3 2 2.919u
.ends 8070_7443340330_3.3u
*******
.subckt 8070_7443340470_4.7u 1 2
Rp 1 2 2026
Cp 1 2 2.718p
Rs 1 N3 0.0127
L1 N3 2 4.386u
.ends 8070_7443340470_4.7u
*******
.subckt 8070_7443340680_6.8u 1 2
Rp 1 2 2891
Cp 1 2 2.779p
Rs 1 N3 0.0233
L1 N3 2 6.407u
.ends 8070_7443340680_6.8u
*******
.subckt 8070_7443341000_10u 1 2
Rp 1 2 6278
Cp 1 2 3.371p
Rs 1 N3 0.0385
L1 N3 2 8.837u
.ends 8070_7443341000_10u
*******
