**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     SMDShieldedPower Inductor
* Matchcode:          WE-LQFS
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 3818_74406032010_1u 1 2
Rp 1 2 1626.6
Cp 1 2 0.426p
Rs 1 N3 0.026
L1 N3 2 1u
.ends 3818_74406032010_1u
*******
.subckt 3818_74406032015_1.5u 1 2
Rp 1 2 1269.58
Cp 1 2 0.456p
Rs 1 N3 0.032
L1 N3 2 1.5u
.ends 3818_74406032015_1.5u
*******
.subckt 3818_74406032033_3.3u 1 2
Rp 1 2 4414.8
Cp 1 2 0.525p
Rs 1 N3 0.064
L1 N3 2 3.3u
.ends 3818_74406032033_3.3u
*******
.subckt 3818_74406032047_4.7u 1 2
Rp 1 2 5625.68
Cp 1 2 0.586p
Rs 1 N3 0.092
L1 N3 2 4.7u
.ends 3818_74406032047_4.7u
*******
.subckt 3818_74406032068_6.8u 1 2
Rp 1 2 3050.18
Cp 1 2 0.708p
Rs 1 N3 0.127
L1 N3 2 6.8u
.ends 3818_74406032068_6.8u
*******
.subckt 3818_74406032100_10u 1 2
Rp 1 2 4159
Cp 1 2 0.685p
Rs 1 N3 0.19
L1 N3 2 10u
.ends 3818_74406032100_10u
*******
.subckt 3818_74406032101_100u 1 2
Rp 1 2 37549
Cp 1 2 0.869p
Rs 1 N3 2.064
L1 N3 2 100u
.ends 3818_74406032101_100u
*******
.subckt 3818_74406032220_22u 1 2
Rp 1 2 4290
Cp 1 2 0.87p
Rs 1 N3 0.401
L1 N3 2 22u
.ends 3818_74406032220_22u
*******
.subckt 3818_74406032330_33u 1 2
Rp 1 2 5193
Cp 1 2 0.803p
Rs 1 N3 0.596
L1 N3 2 33u
.ends 3818_74406032330_33u
*******
.subckt 3818_74406032470_47u 1 2
Rp 1 2 5016
Cp 1 2 0.859p
Rs 1 N3 0.834
L1 N3 2 47u
.ends 3818_74406032470_47u
*******
.subckt 4818_74406042010_1u 1 2
Rp 1 2 1461
Cp 1 2 0.536p
Rs 1 N3 0.019
L1 N3 2 1u
.ends 4818_74406042010_1u
*******
.subckt 4818_74406042015_1.5u 1 2
Rp 1 2 2206
Cp 1 2 0.59p
Rs 1 N3 0.025
L1 N3 2 1.5u
.ends 4818_74406042015_1.5u
*******
.subckt 4818_74406042022_2.2u 1 2
Rp 1 2 2912
Cp 1 2 0.78p
Rs 1 N3 0.033
L1 N3 2 2.2u
.ends 4818_74406042022_2.2u
*******
.subckt 4818_74406042033_3.3u 1 2
Rp 1 2 4991
Cp 1 2 1.015p
Rs 1 N3 0.051
L1 N3 2 3.3u
.ends 4818_74406042033_3.3u
*******
.subckt 4818_74406042047_4.7u 1 2
Rp 1 2 5637
Cp 1 2 0.734p
Rs 1 N3 0.058
L1 N3 2 4.7u
.ends 4818_74406042047_4.7u
*******
.subckt 4818_74406042068_6.8u 1 2
Rp 1 2 7352
Cp 1 2 1.132p
Rs 1 N3 0.081
L1 N3 2 6.8u
.ends 4818_74406042068_6.8u
*******
.subckt 4818_74406042100_10u 1 2
Rp 1 2 9397
Cp 1 2 1.374p
Rs 1 N3 0.111
L1 N3 2 10u
.ends 4818_74406042100_10u
*******
.subckt 4818_74406042101_100u 1 2
Rp 1 2 66309
Cp 1 2 1.128p
Rs 1 N3 1.155
L1 N3 2 100u
.ends 4818_74406042101_100u
*******
.subckt 4818_74406042220_22u 1 2
Rp 1 2 18982
Cp 1 2 1.124p
Rs 1 N3 0.283
L1 N3 2 22u
.ends 4818_74406042220_22u
*******
.subckt 4818_74406042330_33u 1 2
Rp 1 2 25371
Cp 1 2 1.275p
Rs 1 N3 0.407
L1 N3 2 33u
.ends 4818_74406042330_33u
*******
.subckt 4818_74406042470_47u 1 2
Rp 1 2 36285
Cp 1 2 1.242p
Rs 1 N3 0.523
L1 N3 2 47u
.ends 4818_74406042470_47u
*******
.subckt 4828_74406043012_1.2u 1 2
Rp 1 2 1238
Cp 1 2 0.44p
Rs 1 N3 0.018
L1 N3 2 1.2u
.ends 4828_74406043012_1.2u
*******
.subckt 4828_74406043027_2.7u 1 2
Rp 1 2 2481
Cp 1 2 0.687p
Rs 1 N3 0.027
L1 N3 2 2.7u
.ends 4828_74406043027_2.7u
*******
.subckt 4828_74406043047_4.7u 1 2
Rp 1 2 4300
Cp 1 2 0.887p
Rs 1 N3 0.042
L1 N3 2 4.7u
.ends 4828_74406043047_4.7u
*******
.subckt 4828_74406043068_6.8u 1 2
Rp 1 2 5604
Cp 1 2 1.001p
Rs 1 N3 0.053
L1 N3 2 6.8u
.ends 4828_74406043068_6.8u
*******
.subckt 4828_74406043100_10u 1 2
Rp 1 2 7671
Cp 1 2 1.386p
Rs 1 N3 0.072
L1 N3 2 10u
.ends 4828_74406043100_10u
*******
.subckt 4828_74406043101_100u 1 2
Rp 1 2 62133
Cp 1 2 2.236p
Rs 1 N3 0.5
L1 N3 2 100u
.ends 4828_74406043101_100u
*******
.subckt 4828_74406043220_22u 1 2
Rp 1 2 14661
Cp 1 2 1.635p
Rs 1 N3 0.143
L1 N3 2 22u
.ends 4828_74406043220_22u
*******
.subckt 4828_74406043221_220u 1 2
Rp 1 2 116894
Cp 1 2 1.987p
Rs 1 N3 1.105
L1 N3 2 220u
.ends 4828_74406043221_220u
*******
.subckt 4828_74406043330_33u 1 2
Rp 1 2 23757
Cp 1 2 1.73p
Rs 1 N3 0.209
L1 N3 2 33u
.ends 4828_74406043330_33u
*******
.subckt 4828_74406043331_330u 1 2
Rp 1 2 199884
Cp 1 2 2.43p
Rs 1 N3 1.554
L1 N3 2 330u
.ends 4828_74406043331_330u
*******
.subckt 4828_74406043470_47u 1 2
Rp 1 2 33165
Cp 1 2 1.775p
Rs 1 N3 0.216
L1 N3 2 47u
.ends 4828_74406043470_47u
*******
.subckt 4828_74406043471_470u 1 2
Rp 1 2 540651
Cp 1 2 2.434p
Rs 1 N3 2.336
L1 N3 2 470u
.ends 4828_74406043471_470u
*******
